Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
RLE pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ h/o RLE arterial thrombus s/p popliteal stent x2 and
failed bypass attempt here with RLE mottling of toes and RLE 
calf
pain. She reports that she developed calf pain 5 days ago during
the night and right her to hang the foot of the side of the bed
for relief. She has been able to walk during this time however
the pain was getting progressively worse. She began develop pain
in all 5 toes and noted the discoloration or all 5 toes this
morning. She does report having had pain in the calf before like
this and was seen at ___ one month and underwent a CT
scan demonstrating occluded popliteal stents and was sent home 
on
ASA/Plavix. She denies having any chest pain, palpitations, SOB,
fevers/chills.  She was started on a hep gtt at an OSH and
transferred here. She does not feel in change in her pain since
starting on the hep gtt.

 
Past Medical History:
HTN, HLD, PVD s/p pop stents, GERD, bipolar disorder, 
hypothyroidism, erythrocytosis
 
Social History:
___
Family History:
nc
 
Physical Exam:
97.9 78 116/74 16 96% RA
A&Ox3, NAD
RRR
Unlabored respirations
Abd soft, NTND
Ext warm (slightly cool at tips of toes b/l), mottling
blue/purple discoloration of the RLE toes (All 5), sensation
intact, motor intact, tender to palpation at very distal portion
R: p/d/-/d
L: p/p/p/p
Palpable radial pulses b/l

 
Pertinent Results:
___ 01:25PM BLOOD ___ PTT-84.2* ___
___ 01:25PM BLOOD WBC-8.1 RBC-4.27 Hgb-13.7 Hct-41.6 MCV-97 
MCH-32.1* MCHC-32.9 RDW-17.9* RDWSD-62.5* Plt ___
___ 01:25PM BLOOD Glucose-110* UreaN-7 Creat-0.7 Na-139 
K-4.7 Cl-104 HCO3-24 AnGap-16

RLE Ultrasound:
IMPRESSION:  
Deep vein thrombosis in the gastrocnemius veins of the right 
lower extremity. 

 
Brief Hospital Course:
___ h/o RLE arterial thrombus s/p popliteal stent x2 and failed 
bypass attempt here with RLE mottling of toes, occlusion of pop 
stent that is likely chronic given CT at ___. Admitted 
to the vascular surgery service on ___ for pain control and 
hep gtt. As for the superficial thrombosis she should have warm 
compresses and NSAIDS as need for pain.

On ___: We performed a repeat US which showed a deep vein 
thrombosis in the gastrocnemius veins of the right lower 
extremity. The pt's heparin drip was stopped and she was started 
on ___ lovenox and Coumadin. She was instructed to follow up with 
her PCP on ___ to get her INR checked. Pt was 
discharged with ___ teaching and follow up with Dr. ___ 
in 3 weeks. Pt will follow up with Dr. ___ on ___ where she 
will be entered into the ___ clinic and get INR checks.

 
Medications on Admission:
cilostazol 100mg'', Plavix 75mg', amlodipine 10mg', ASA81mg', 
quetiapine 50mg', levothyroxine 150mcg', lithium 300mg''', 
pantoprazole 40mg'
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Cilostazol 100 mg PO BID 
5. Warfarin 5 mg PO ONCE Duration: 1 Dose 
6. QUEtiapine Fumarate 100 mg PO QHS 
7. Pantoprazole 40 mg PO Q24H 
8. Lithium Carbonate 300 mg PO TID 
9. Levothyroxine Sodium 150 mcg PO DAILY 
10. Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RLE pain-Deep vein thrombosis in the gastrocnemius veins of the 
right lower extremity.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ and 
were found to have a deep vein thrombosis in the gastrocnemius 
veins of the right lower extremity.  Please follow the 
instructions below to continue your recovery:

MEDICATIONS:
Take you Lovenox and Coumadin as instructed.

ACTIVITIES:
• When you go home, you may walk and go up and down stairs
• You may shower  
• No heavy lifting, pushing or pulling 
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

 
Followup Instructions:
___